US20010020034A1
5-[3-(4-tert-Butylamino-3-hydroxy-butyl)-ureido]-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and 4-amino-1-tert-butylamino-butan-2-ol by the procedure analogous to Example 6. HPLC ret. time: 3.3 minutes. 1H NMR (400 MHz, CD3OD) δ 7.18 (dd, 1H, J=6 8, 9.6 Hz), 7.04 (dd, 1H, J=6.4, 10 Hz), 5.45 (s, 2H), 3.66 (m, 1H), 3.34 (t, 2H, J=7.6 Hz), 2.58 (m, 2H), 2.25 (s, 3H), 1.69-1.60 (m, 2H), 1.12 (s, 9H) ppm; MS (APCl, m/z): 486 [M+H]+.

reactant | [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C(=C1)F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | 4-amino-1-tert-butylamino-butan-2-ol | NCCC(CNC(C)(C)C)O | C8H20N2O
product | 5-[3-(4-tert-Butylamino-3-hydroxy-butyl)-ureido]-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazole-4-carboxylic acid amide | C(C)(C)(C)NCC(CCNC(NC1=C(C(=NS1)OCC1=C(C=C(C(=C1)F)C)F)C(=O)N)=O)O | C21H29F2N5O4S
